US07297704B2
2-(6-Fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-ethylamine
To a solution of (6-fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)acetonitrile (0.423 g, 1.857 mmol) in ethanol (55 mL) kept under nitrogen was added concentrated aqueous ammonia (38 mL) followed by 5% rhodium on alumina catalyst (40% by weight). The mixture was hydrogenated at room temperature and 50 psi for 24 hours. Following TLC, additional catalyst (1.130 g) was added and the hydrogenation was resumed. After 6 hours the catalyst was filtered off over Celite, the cake washed with ethanol and the filtrate evaporated to dryness at reduced pressure. The residue was treated with a small amount of ethanol and evaporated. The procedure was performed three times. The residual oil was purified by flash chromatography on silica gel Merck-60 using a gradient from 2:248 to 10:90 of ammonia saturated methanol in dichloromethane. The desired title compound was obtained as a pale yellow foam (0.405 g). MS (ES): [M−H]− @231.1.

reactant | (6-fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)acetonitrile | 1.857 mmol, 0.423 g | FC=1C=C2C=3CC(CCC3NC2=CC1)CC#N | C14H13FN2
reactant | ammonia | 38 mL | N | H3N
solvent | ethanol | 55 mL | C(C)O | C2H6O
catalyst | rhodium on alumina | [Rh] | Rh
product | 2-(6-Fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-ethylamine | FC=1C=C2C=3CC(CCC3NC2=CC1)CCN | C14H17FN2
